US06362210B1
Trans-3-nitrocinnamic acid-N-(2-methoxycarbonyl-phenyl)-amide
965 mg (5.0 mmol) of trans-3-nitrocinnamic acid are refluxed for 20 minutes in 3 ml of thionyl chloride after the addition of one drop of dimethylformamide. Then the mixture is evaporated to dryness in vacuo and the resulting acid chloride is dissolved in 10 ml of dioxane. This solution is slowly added dropwise, with stirring, at ambient temperature, to a solution of 756 mg (5.0 mmol) of methyl anthranilate and 1.5 ml of triethylamine in 10 ml of dioxane. After one hour the solvent is evaporated off in vacuo, the residue is stirred into about 10 ml of water, then filtered off and the resulting crude product is purified by column chromatography over silica gel (eluant: dichloromethane/petroleum ether=2:1).

reactant | trans-3-nitrocinnamic acid | 5.0 mmol, 965 mg | [N+](=O)([O-])C=1C=C(/C=C/C(=O)O)C=CC1 | C9H7NO4
reactant | methyl anthranilate | 5.0 mmol, 756 mg | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Trans-3-nitrocinnamic acid-N-(2-methoxycarbonyl-phenyl)-amide | COC(=O)C1=C(C=CC=C1)NC(\C=C\C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H14N2O5
